* c:\users\kesav\esim-workspace\dff\dff.cir

* u3  net-_u12-pad2_ clk init net-_u10-pad3_ net-_u3-pad5_ ? d_dff
* u8  net-_u3-pad5_ clk net-_u10-pad3_ init net-_u10-pad1_ ? d_dff
* u10  net-_u10-pad1_ clk net-_u10-pad3_ init net-_u10-pad5_ ? d_dff
* u6  net-_u1-pad2_ net-_u6-pad2_ net-_u3-pad5_ ? net-_u6-pad5_ ? d_dff
* u9  net-_u1-pad2_ net-_u11-pad5_ net-_u10-pad1_ net-_u11-pad4_ net-_u6-pad2_ ? d_dff
* u11  net-_u11-pad1_ ? net-_u10-pad5_ net-_u11-pad4_ net-_u11-pad5_ ? d_dff
v2 net-_u1-pad1_ gnd  dc 5
v1  net-_u13-pad1_ gnd pulse(0 5 00.001 0.00001 0.00009 0.005 0.01)
* u7  net-_u6-pad2_ net-_u6-pad5_ d1 d0 dac_bridge_2
* u2  clk plot_v1
* u5  d0 plot_v1
* u4  d1 plot_v1
* u12  gnd net-_u12-pad2_ adc_bridge_1
* u16  gnd net-_u11-pad1_ adc_bridge_1
r1  d0 gnd 1k
r2  d1 gnd 1k
* u13  net-_u13-pad1_ clk adc_bridge_1
* u1  net-_u1-pad1_ net-_u1-pad2_ adc_bridge_1
v3 nn gnd  dc 5
* u15  init plot_v1
* u17  nn plot_v1
* u14  nn init adc_bridge_1
a1 net-_u12-pad2_ clk init net-_u10-pad3_ net-_u3-pad5_ ? u3
a2 net-_u3-pad5_ clk net-_u10-pad3_ init net-_u10-pad1_ ? u8
a3 net-_u10-pad1_ clk net-_u10-pad3_ init net-_u10-pad5_ ? u10
a4 net-_u1-pad2_ net-_u6-pad2_ net-_u3-pad5_ ? net-_u6-pad5_ ? u6
a5 net-_u1-pad2_ net-_u11-pad5_ net-_u10-pad1_ net-_u11-pad4_ net-_u6-pad2_ ? u9
a6 net-_u11-pad1_ ? net-_u10-pad5_ net-_u11-pad4_ net-_u11-pad5_ ? u11
a7 [net-_u6-pad2_ net-_u6-pad5_ ] [d1 d0 ] u7
a8 [gnd ] [net-_u12-pad2_ ] u12
a9 [gnd ] [net-_u11-pad1_ ] u16
a10 [net-_u13-pad1_ ] [clk ] u13
a11 [net-_u1-pad1_ ] [net-_u1-pad2_ ] u1
a12 [nn ] [init ] u14
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u3 d_dff(clk_load=1.0e-12 rise_delay=1.0e-9 reset_load=1.0e-12 set_load=1.0e-12 set_delay=1.0e-9 ic=0 data_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 clk_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u8 d_dff(clk_load=1.0e-12 rise_delay=1.0e-9 reset_load=1.0e-12 set_load=1.0e-12 set_delay=1.0e-9 ic=0 data_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 clk_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u10 d_dff(clk_load=1.0e-12 rise_delay=1.0e-9 reset_load=1.0e-12 set_load=1.0e-12 set_delay=1.0e-9 ic=0 data_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 clk_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u6 d_dff(clk_load=1.0e-12 rise_delay=1.0e-9 reset_load=1.0e-12 set_load=1.0e-12 set_delay=1.0e-9 ic=0 data_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 clk_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u9 d_dff(clk_load=1.0e-12 rise_delay=1.0e-9 reset_load=1.0e-12 set_load=1.0e-12 set_delay=1.0e-9 ic=0 data_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 clk_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u11 d_dff(clk_load=1.0e-12 rise_delay=1.0e-9 reset_load=1.0e-12 set_load=1.0e-12 set_delay=1.0e-9 ic=0 data_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 clk_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_high=5.0 t_fall=1.0e-9 out_low=0.0 t_rise=1.0e-9 out_undef=0.5 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u12 adc_bridge(in_high=2.0 in_low=1.0 fall_delay=1.0e-9 rise_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u16 adc_bridge(in_high=2.0 in_low=1.0 fall_delay=1.0e-9 rise_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u13 adc_bridge(in_high=2.0 in_low=1.0 fall_delay=1.0e-9 rise_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_high=2.0 in_low=1.0 fall_delay=1.0e-9 rise_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u14 adc_bridge(in_high=2.0 in_low=1.0 fall_delay=1.0e-9 rise_delay=1.0e-9 ) 
.tran 10e-03 50e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk)
plot v(d0)
plot v(d1)
plot v(init)
plot v(nn)
.endc
.end
